US04912231
B. (cis)-1-Benzoyl-4-tosyloxy-L-proline
A solution of (cis)-1-benzoyl-4-tosyloxy-L-proline, methyl ester (from the previous step) in THF.H2O (25 ml-5 ml) was stirred under argon and treated with lithium hydroxide mono hydrate (672 mg, 16 mmole). The reaction was stirred for 3 hours, concentrated in vacuo, acidified to pH 1.5 with HCl, and extracted with ethyl acetate. The organic extracts were dried, filtered and concentrated in vacuo to a white solid which was recrystallized twice from ethyl acetate to afford the title compound.

reactant | (cis)-1-benzoyl-4-tosyloxy-L-proline, methyl ester | C(C1=CC=CC=C1)(=O)N1[C@H](C(=O)OC)C[C@@H](C1)OS(=O)(=O)C1=CC=C(C)C=C1 | C20H21NO6S
reactant | H2O | 25 ml-5 ml | O | H2O
reactant | lithium hydroxide mono hydrate | 16 mmole, 672 mg | O.[OH-].[Li+]
solvent | THF | C1CCOC1 | C4H8O
product | (cis)-1-Benzoyl-4-tosyloxy-L-proline | C(C1=CC=CC=C1)(=O)N1[C@H](C(=O)O)C[C@@H](C1)OS(=O)(=O)C1=CC=C(C)C=C1 | C19H19NO6S
